US04840971
Synthesis of 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 3-(4-chlorophenoxy)benzyl ether (compound (12))
Under a nitrogen atmosphere, 171 mg of sodium hydride (60% oil dispersion) was added to 20 ml of dry THF. A solution of 1.0 g of 2-(4-ethoxyphenyl)-3,3,3-trifluoropropanol and 1.25 g of 3-(4-chlorophenoxy)-benzyl bromide in 30 ml of dry THF was then added with ice-cooling, and the reaction solution was stirred with ice-cooling for 1 hour and at room temperature for 12 hours. Thereafter, the reaction mixture was poured into dilute HCl-ice water and extracted twice with diethyl ether. The ether layers were combined, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure, and the residue was subjected to column chromatography on silica gel [eluted with n-hexane/ethyl acetate (50:1) mixture] to obtain 1.22 of the desired compound.

reactant | sodium hydride | 171 mg | [H-].[Na+]
reactant | 2-(4-ethoxyphenyl)-3,3,3-trifluoropropanol | 1.0 g | C(C)OC1=CC=C(C=C1)C(CO)C(F)(F)F | C11H13F3O2
reactant | 3-(4-chlorophenoxy)-benzyl bromide | 1.25 g | ClC1=CC=C(OC=2C=C(CBr)C=CC2)C=C1 | C13H10BrClO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 3-(4-chlorophenoxy)benzyl ether | ClC1=CC=C(OC=2C=C(COCC(C(F)(F)F)C3=CC=C(C=C3)OCC)C=CC2)C=C1 | C24H22ClF3O3
